US08007927B2
The 300 ml round-bottom flask equipped with reflux condenser and magnetic stirrer was charged with 2-bromoaniline (8.00 g, 46.5 mmol), 4-dibenzothiopheneboronic acid (10.5 g, 46.5 mmol), potassium carbonate (20 g, saturated solution in water), tetrakis(triphe-nylphoshine)palladium (0) (500 mg) and 100 ml of toluene. The reaction mixture was refluxed overnight under nitrogen atmosphere, filtered through silica plug and evaporated. Product was purified by column chromatography on silica gel, eluent hexane/ethyl acetate 4/1 mixture, providing 2-(dibenzo[b,d]thiophen-4-yl)aniline (10.1 g) as yellow oil.

reactant | 2-bromoaniline | 46.5 mmol, 8.00 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | 4-dibenzothiopheneboronic acid | 46.5 mmol, 10.5 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(dibenzo[b,d]thiophen-4-yl)aniline | 10.1 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C3=C(N)C=CC=C3 | C18H13NS
